US09212168B2
Preparation 44: (R)-5-chloro-4-(6-(2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2-(trifluoromethoxy)phenylboronic acid
Under an atmosphere of nitrogen, a mixture of N-(4-bromo-2-chloro-5-trifluoromethoxy-phenyl)-6-[(R)-4-(2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-nicotinamide (20.0 g, 34.6 mmol) and tetrahydrofuran (200 mL) was cooled to 0° C. and then 1.3 M isopropylmagnesium chloride lithium chloride complex in tetrahydrofuran (79.9 mL, 104 mmol) was added dropwise at 0-10° C. After 2.5 h, boric acid, trimethyl ester (12.0 mL, 106 mmol) was added dropwise, and then 1 N HCl (105 mL) was added and the reaction mixture was stirred overnight. The reaction mixture was extracted with EtOAc (250 mL); the organic layer was washed with water, sat. aq. NaHCO3, dried over MgSO4, and evaporated to give crude product (22.8 g). To the crude product was added ethanol (230 mL) and then slowly water (57.5 mL). The resulting mixture was stirred for 10 days and filtered to give the title intermediate as a crystalline solid (10.7 g, 57% yield).

reactant | N-(4-bromo-2-chloro-5-trifluoromethoxy-phenyl)-6-[(R)-4-(2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-nicotinamide | 34.6 mmol, 20.0 g | BrC1=CC(=C(C=C1OC(F)(F)F)NC(C1=CN=C(C=C1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O)Cl | C23H25BrClF3N4O3
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 104 mmol, 79.9 mL | O1CCCC1 | C4H8O
reactant | boric acid, trimethyl ester | 106 mmol, 12.0 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 1 N, 105 mL | Cl | ClH
solvent | water | 57.5 mL | O | H2O
solvent | ethanol | 230 mL | C(C)O | C2H6O
product | (R)-5-chloro-4-(6-(2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2-(trifluoromethoxy)phenylboronic acid | 10.7 g, 57% yield | ClC=1C(=CC(=C(C1)B(O)O)OC(F)(F)F)NC(C1=CN=C(C=C1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O | C23H27BClF3N4O5
